US09238631B2
Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{4-[3-(tosyloxy)propyl]benzyl}-L-glutamate
Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[4-(3-hydroxypropyl)benzyl]-L-glutamate (514 mg, 1.01 mmol) was dissolved in pyridine (25 mL) and p-toluenesulfonic anhydride (Aldrich) (661 mg, 2.03 mmol) was slowly added at 0° C. The reaction was stirred for 2 h, than poured into 25 mL 1 N aqueous hydrogen chloride. The mixture was extracted with tert-butyl methyl ether (3×50 mL), the organic phases washed with saturated aqueous sodium hydrogen carbonate, dried over sodium sulfate and concentrated in vacuo. The crude product was chromatographed on silica gel using a hexane/ethyl acetate gradient, and the appropriate fractions were combined and concentrated. The product was repurified on a reversed phase (RP-18) HPLC column with an acetonitrile/water gradient. The appropriate fractions were collected, the acetonitrile evaporated under reduced pressure and the remaining aqueous solution was lyophilized.

reactant | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-[4-(3-hydroxypropyl)benzyl]-L-glutamate | 1.01 mmol, 514 mg | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)CCCO)C(=O)OC(C)(C)C | C28H45NO7
reactant | p-toluenesulfonic anhydride | 2.03 mmol, 661 mg | C1(=CC=C(C=C1)S(=O)(=O)OS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14O5S2
reactant | hydrogen chloride | 1 N, 25 mL | Cl | ClH
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | Di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{4-[3-(tosyloxy)propyl]benzyl}-L-glutamate | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)CCCOS(=O)(=O)C1=CC=C(C)C=C1)C(=O)OC(C)(C)C | C35H51NO9S
